US20010003749A1
1,1-Diethoxy-3-phenyl-3-cyclohexanecarbonyl-butane (74.4 g, 224 mmol) was dissolved in acetone (800 mL) followed by addition of 3.0 N HCl (800 mL). The reaction mixture was stirred for one hour at room temperature. It was then concentrated under vacuum to less than ½its original volume and then extracted with methylene chloride (800 mL). The organic extract was then washed with brine (300 mL), dried over anhydrous magnesium sulfate, suction filtered and concentrated under vacuum to provide crude 3-phenyl-3-cyclohexanecarbonyl-butan-1-al (57.8 g). Alternatively, the dried and filtered methylene chloride solution can be used directly in the next step without concentration.

reactant | 1,1-Diethoxy-3-phenyl-3-cyclohexanecarbonyl-butane | 224 mmol, 74.4 g | C(C)OC(CC(C)(C(=O)C1CCCCC1)C1=CC=CC=C1)OCC | C21H32O3
reactant | HCl | 3.0 N, 800 mL | Cl | ClH
solvent | acetone | 800 mL | CC(=O)C | C3H6O
product | 3-phenyl-3-cyclohexanecarbonyl-butan-1-al | 57.8 g | C1(=CC=CC=C1)C(CC=O)(C)C(=O)C1CCCCC1 | C17H22O2
